Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Azathioprine
 
Attending: ___.
 
Chief Complaint:
asymptomatic carotid stenosis
 
Major Surgical or Invasive Procedure:
Right carotid endarterectomy with bovine pericardial patch 
angioplasty.

 
History of Present Illness:
The patient is a ___ male who was identified with a 
progressive right carotid stenosis.  It is asymptomatic.  It is 
greater than 80%.  He understood the risks and benefits of 
surgery, understood the risks of cranial nerve injury, stroke, 
bleeding, recurrence.

 
Past Medical History:
MEDICAL HISTORY: 
- Hyperlipidemia
- Dyslipidemia 
- Basal cell carcinoma - neck ___ 
- Polymyositis 
- Raynaud's phenomenon 
- Inguinal hernia - right repaired ___, 
- Tongue cancer - partial glossectomy - ___, 

PAST SURGICAL HISTORY:  
- Partial glossectomy - ___, 
- Inguinal hernia repaired - right side ___.
- Orchiopexy - ___

 
Social History:
___
Family History:
Father: ___ aortic aneurysm. 
Mother ___.
 
Physical Exam:
Discharge physical exam:
97.___/97.9  69  128/68  16  97 1L
Gen: wa/wd, nad
HEENT: NC/AT, EOMI/PERRLA, no scleral icterus, MMM, OP clear, 
s/p resection of R tongue lesion
Neck: trachea midline, no masses, incision c/d/I, expected 
postop edema with no induration
CV: RRR, S1 and S2
Pulm: CTA b/l
Abd: soft, nd, nttp
Ext: palp distal pulses, MAE/WWP/no CCE
Neuro: AOx3, appropriate, CNII-XII intact, no focal deficits, no 
dysmetria, sensorimotor intact and equal b/l
 
Pertinent Results:
___ 04:30AM BLOOD WBC-7.5 RBC-3.81* Hgb-12.2* Hct-37.0* 
MCV-97 MCH-32.0 MCHC-33.0 RDW-13.2 RDWSD-47.0* Plt ___
___ 04:30AM BLOOD Glucose-117* UreaN-14 Creat-0.6 Na-134 
K-4.1 Cl-100 HCO3-25 AnGap-13
___ 04:30AM BLOOD Phos-3.6 Mg-1.7
 
Brief Hospital Course:
 Mr ___ presented to ___ holding at ___ on ___ for 
a R carotid endarterectomy with bovine pericardial patch graft. 
He tolerated the procedure well without complications (Please 
see operative note for further details). After a brief and 
uneventful stay in the PACU, the patient was transferred to the 
vascular ICU for further post-operative management and close 
neurologic monitoring.
 Neuro: Pain was well controlled on POD #0. His neurologic exam 
was monitored and was found to be completely intact.
 CV: Vital signs were routinely monitored during the patient's 
length of stay. He was placed on a nitro drip in the PACU, which 
was weaned off. He was restarted on his home blood pressure 
medications on POD #1
 Pulm: The patient was encouraged to ambulate, sit and get out 
of bed, use the incentive spirometer, and had oxygen saturation 
levels monitored as indicated.  
 GI: The patient was later advanced to and tolerated a regular 
diet at time of discharge.  
 GU: Urine output was monitored as indicated. The patient 
required straight catheterization in the PACU for urinary 
retention. Overnight he continued to have some trouble with 
urination, having elevated post void residuals after a 
spontaneous void. However he voided with no problem in the 
morning of POD #1. At time of discharge, the patient was voiding 
without difficulty.  
 ID: The patient's vital signs were monitored for signs of 
infection and fever.
 Heme: The patient had blood levels checked post operatively 
during the hospital course to monitor for signs of bleeding. The 
patient had vital signs, including heart rate and blood 
pressure, monitored throughout the hospital stay.  

 On ___, the patient was discharged to home with services 
for blood pressure checks and wound checks. At discharge, he was 
tolerating a regular diet, having bowel function, voiding, and 
ambulating independently. Hhe will follow-up in the clinic in 
___ weeks. This information was communicated to the patient 
directly prior to discharge.  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 20 mg PO QPM 
2. Verapamil SR 180 mg PO Q24H 
3. Aspirin 81 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN pain  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4h prn Disp #*7 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Multivitamins 1 TAB PO DAILY  
6.  Verapamil SR 180 mg PO Q24H  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Asymptomatic severe Right internal carotid stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___. You were admitted to the hospital after a 
carotid endarterectomy. This surgery was done to restore proper 
blood flow to your brain. To perform this procedure, an incision 
was made in your neck. You tolerated the procedure well and are 
now ready to be discharged from the hospital. Please follow the 
recommendations below to ensure a speedy and uneventful 
recovery.

WHAT TO EXPECT:
Bruising, tenderness, mild swelling, numbness and/or a firm 
ridge at the incision site is normal.  This will improve 
gradually in the next 2 weeks.
 
You may have a sore throat and or mild hoarseness.  Warm tea, 
throat lozenges, or cool drinks usually help.
 
It is normal to feel tired for ___ weeks after your surgery.
 
MEDICATION INSTRUCTIONS:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home. If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

It is very important that you take Aspirin every day! You should 
never stop this medication before checking with your surgeon

You should take Tylenol ___ every 6 hours, as needed for neck 
pain. If this is not enough, take your prescription pain 
medication. You should require less pain medication each day. Do 
not take more than a daily total of 3000mg of Tylenol. Tylenol 
is used as an ingredient in some other over-the-counter and 
prescription medications. Be aware of how much Tylenol you are 
taking in a day.

Narcotic pain medication can be very constipating. If you take 
narcotics, please also take a stool softener such as Colace. If 
constipation becomes a problem, your pharmacist can suggest an 
additional over the counter laxative. 
 
CARE OF YOUR NECK INCISION:
You may shower 48 hours after your procedure. Avoid direct 
shower spray to the incision. Let soapy water run over the 
incision, then rinse and gently pat the area dry. Do not scrub 
the incision.  
 
Your neck incision may be left open to air and uncovered unless 
you have a small amount of drainage at the site. If drainage is 
present, place a small sterile gauze over the incision and 
change the gauze daily.
 
Do not take a bath or go swimming for 2 weeks.
 
ACTIVITY:
Do not drive for one week after your procedure. Do not ever 
drive after taking narcotic pain medication.
 
You should not push, pull, lift or carry anything heavier than 5 
pounds for the next 2 weeks. 

After 2 weeks, you may return to your regular activities 
including exercise, sexual activitiy and work.
 
DIET:
It is normal to have a decreased appetite. Your appetite will 
return over time. Follow a well-balanced, heart healthy diet, 
with moderate restriction of salt and fat.
 
SMOKING:
If you smoke, it is very important for you to stop. Research has 
shown that smoking makes vascular disease worse. Talk to your 
primary care physician about ways to quit smoking.
 
The ___ Smokers' Helpline is a FREE and confidential 
way to get support and information to help you quit smoking.  
Call ___
 
CALLING FOR HELP
If you need help, please call us at ___. Remember your 
doctor, or someone covering for your doctor is available 24 
hours a day, 7 days a week. If you call during non-business 
hours, you will reach someone who can help you reach the 
vascular surgeon on call. 
 
To get help right away, call ___.

Call the surgeon right away for:
•headache that is not controlled with pain medication or 
headache that is getting worse
•fever of 101 degrees or more
•bleeding from the incision, or drainage the is new or 
increased, or drainage that is white yellow or green
•pain that is not relieved with medication, or pain that is 
getting worse instead of better
 
If you notice any of the following signs of stroke, call ___ to 
get help right away.
•sudden numbness or weakness of the face, arm or leg (especially 
on one side of the body)
•sudden confusion, trouble speaking or trouble understanding 
speech
•trouble seeing in one or both eyes
•sudden trouble walking, dizziness, loss of balance or 
coordination
•sudden severe headache with no known cause
 
Followup Instructions:
___